2158-11-01 06:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2158-10-31**] 07:02 PM
 ARTERIAL LINE - START [**2158-10-31**] 07:03 PM
 SHEATH - START [**2158-10-31**] 07:03 PM
   CATH: CI 6.3 (high output), coronaries with mild disease, v gram LV
   reasonable well. MAP 60s. Plan to wean levo, wean versed. Pulled swan
   but left venous line, left fem sheath to transduce BP (since radial a
   line not functioning well).
   - given patient was rigoring in the unit, started Cisatracurium
   Besylate for paralysis.
   - given NS bicarb x3amp, s/p bicarb drip had to stop due to increased
   glucose ([**1-30**] d5w, experimental meds, underlying infectious process)
   - on all lyte scales (K, Ca, Mg)
   - on zosyn for empric coverage for aspiration pna.
   - recieved steroid as per study dose (for patient was shock).
   - Neuro will place EEG in AM eval for function.
   - controlling metabolic acidosis gap and non-gap components.
   - currently on levophed.
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-11-1**] 12:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Cisatracurium - [**2158-10-31**] 08:48 PM
   Pantoprazole (Protonix) - [**2158-11-1**] 12:52 AM
   Heparin Sodium (Prophylaxis) - [**2158-11-1**] 12:52 AM
   Insulin - Regular - [**2158-11-1**] 03:54 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2158-11-1**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-11-1**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.7
C (94.5
   Tcurrent: 34.7
C (94.5
   HR: 57 (57 - 117) bpm
   BP: 93/58(71) {85/51(64) - 114/65(82)} mmHg
   RR: 18 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 76.2 kg (admission): 80 kg
             Total In:
                                                                  4,541 mL
                                                                  4,228 mL
   PO:
             TF:
   IVF:
                                                                  1,491 mL
                                                                  4,178 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    733 mL
   Urine:
                                                                    190 mL
                                                                    733 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,501 mL
                                                                  3,495 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.19/38/115/14/-12
   Ve: 10.5 L/min
   PaO2 / FiO2: 287
   Physical Examination
   GENERAL: Intubated
   HEENT: P+4 to +3
   NECK: No JVD, no carotid bruit.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   277 K/uL
   13.8 g/dL
   290 mg/dL
   1.0 mg/dL
   14 mEq/L
   3.6 mEq/L
   22 mg/dL
   114 mEq/L
   141 mEq/L
   40.4 %
   23.5 K/uL
        [image002.jpg]
                             [**2158-10-31**]  06:18 PM
                             [**2158-10-31**]  07:49 PM
                             [**2158-10-31**]  08:55 PM
                             [**2158-10-31**]  10:10 PM
                             [**2158-10-31**]  11:42 PM
                             [**2158-11-1**]  12:07 AM
                             [**2158-11-1**]  01:27 AM
                             [**2158-11-1**]  02:49 AM
                             [**2158-11-1**]  03:56 AM
                             [**2158-11-1**]  04:42 AM
   WBC
   35.3
   29.9
   23.5
   Hct
   45.3
   43.0
   40.4
   Plt
   348
   282
   277
   Cr
   1.1
   1.1
   1.0
   TropT
   3.75
   1.87
   TCO2
   17
   17
   14
   14
   14
   15
   15
   Glucose
   247
   327
   290
   Other labs: PT / PTT / INR:14.0/25.8/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 9105**]/498/1.87, ALT / AST:377/559, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:91.1 %, Lymph:5.4 %, Mono:3.1 %, Eos:0.1 %, Lactic
   Acid:5.3 mmol/L, LDH:1209 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:1.3
   mg/dL
   - Cath: right dominant system, The LMCA was patent. The LAD,
   LCx, and RCA had mild disease.
   LVEDP of 21 mmHg and an RVEDP of 12 mmHg,
   severe pulmonary artery systolic hypertension with a PASP of 57 mmHg.
   The cardiac index was elevated at 6.3 L/min/m2.
   - CT Head: Diffuse loss of [**Doctor Last Name 988**]-white matter differentiation and sulcal
   effacement consistent with global cerebral edema, likely a sequela of
   anoxic brain injury.
   - CT Chest:  No aortic dissection, aortic aneurysm, or pulmonary
   embolus.  Bilateral dependent consolidations, either atelectasis or
   aspiration.  Endotracheal tube in the right mainstem bronchus, which
   should be retracted.  Coronary arterial calcification.
   Axial hiatal hernia.  Trace ascites.  Stranding and fluid about the
   second portion of the duodenum, and duodenitis is not  excluded.
   - Cultures pending.
   Assessment and Plan
   55 year old man who presents with cardiac arrest.
    .
   # Cardiac arrest: VFib arrest with episodes of PEA and asystole. Most
   likely etiology is primary arrythmogenic arrest. DDx include ischemic
   cardiomyopathy, left ventricular systolic dysfunction, myocarditis,
   long QT syndrome in decreasing order of likelihood.  Per cardiology
   records, he had a h/o ventricular arrythmia.  Unclear etiology ? if
   metabolic related (ie. Hyperthyroidism) vs infection
   (pulmonary/intra-abdominal)
   - obtain PCP records
   [**Name Initial (PRE) **] trend CE (expect elevation because of CPR)
   - TTE to eval EF on [**11-1**]
   - monitor CBC, CMP
   - hold lidocaine ggt; if goes back in VF then amiodarone, since no
   ischemic disease.
   .
   # Neurologic compromise: Concern for anoxic injury in setting of
   cardiac arrest. Currently on cooling protocol.
   - Continuous EEG for 24 hours with reflex neurology consultation
   - monitor coags and lytes while cooled
   - arctic sun treatment protocol
   - wean sedation as tolerated after warming
   .
   # Hypotension: Initially in setting of VF, suggesting a cardiogenic
   shock proccess. Worsening of hypotension may have been artifactual,
   related to a line. CI during cath and a line tracing from femoral
   sheath support this.
   - Monitor BP
   - wean down pressor (dopa/levo) as tolerated, currently only on
   levophed
   - Consider changing to Neo since this has less B1 ionotropic effect.
   .
   # Metabolic Acidosis: likely from tissue ischemia. Lactate was
   elevated. AG of 18 with delta-delta of [**6-9**] (0.5) is indictive of a
   combined metabolic acidosis (AG and non-AG).  AG is due to lactate [**1-30**]
   hypoperfusion that is complicated by the hyperglycemic episodes
   thoughout the night [**1-30**] HCO3 gtt. Non-AG is of unclear etiology, could
   be [**1-30**] dilutional effect and respiratory alkalosis though can not rule
   out RTA etiology.  He was given experimental dose of medication, likely
   contributed to the hyperglycemia.  And he was receiving HCO3 in D5W.
   Clinically resemble DKA, though, he does not have a documented
   diagnosis of DM.
   - treating with HCO3 bolus to prevent acidosis induced VF.
   - continue IVF support, insulin drip (pending warming), lyte replete.
   - q1h glucose check, with ABG's to see if he is responding to
   treatment.
   - serial ABG check q6h.
   - q6h lytes
   - consider RTA work-up given non-gap acidosis
   .
   # Respiratory arrest: Likely a consequence of VF arrest. Currently
   intubated and sedated. Note fild intubation most likely required
   paralysis. CXR with mild hilar fullness, but the rest of the exam in
   inconsistent with pulmonary edema or decompensated systolic
   dysfunction. Leukocytosis is most likely attributed  to arrest, and is
   less indicative of PNA. Although of low pretest probability PE CT was
   obtained in ED and was negative. Most recent ABG suggestive of
   respiratory alkalosis.
   - monior O2 sats and ABG prn
   - modify TV and RR to correct respiratory alkalosis
   - wean sedation after warming as tolerated
   - emperically coverage with zosyn, d1 [**10-31**]
    .
   FEN: lytes q6, prn IVF
   ACCESS: 18gx2, CVL R groin, femoral sheath
   PROPHYLAXIS: SQH, PPI
   CODE: Presumed full
   COMM:  [**Name (NI) 9089**] [**Numeric Identifier 9090**], [**Name2 (NI) 6164**] [**Numeric Identifier 9091**], [**Doctor First Name **] [**Numeric Identifier 9092**], [**Doctor Last Name **] [**Telephone/Fax (1) 9093**](daugters).
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-10-31**] 07:03 PM
   Sheath - [**2158-10-31**] 07:03 PM
   18 Gauge - [**2158-10-31**] 08:30 PM
   20 Gauge - [**2158-11-1**] 12:50 AM
   22 Gauge - [**2158-11-1**] 04:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2158-11-02 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 10AM went into 20 seconds of VF,D/C Cardioverted out of it,
   amiodarone drip started
   - Nursing concern he was seizing, Neuro resident called, stated he will
   look at EEG, however patient is already on midazolam and fentanyl and
   he would not add anymore meds, Epilepsy fellow felt this was the
   baseline "burst supression" pattern
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-11-1**] 04:00 PM
   Piperacillin - [**2158-11-2**] 12:38 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Insulin - Regular - 1 units/hour
   Fentanyl - 100 mcg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2158-11-1**] 06:49 AM
   Amiodarone - [**2158-11-1**] 10:35 AM
   Pantoprazole (Protonix) - [**2158-11-2**] 12:38 AM
   Heparin Sodium (Prophylaxis) - [**2158-11-2**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-11-2**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 74 (48 - 78) bpm
   BP: 130/76(94) {100/63(78) - 130/77(94)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 80 kg
             Total In:
                                                                  8,448 mL
                                                                    353 mL
   PO:
             TF:
   IVF:
                                                                  8,348 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  1,313 mL
                                                                    175 mL
   Urine:
                                                                  1,313 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,135 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.35/34/76.[**Numeric Identifier 433**]/18/-5
   Ve: 10.3 L/min
   PaO2 / FiO2: 152
   Physical Examination
   CV:RR no MGR s1d2
   Pulm: bronchial breath sounds c/w vent
   Ext: cool, 2+ throughout
   Neuro: paralyzed, non-responsive
   Labs / Radiology
   218 K/uL
   12.9 g/dL
   74 mg/dL
   1.0 mg/dL
   18 mEq/L
   4.9 mEq/L
   26 mg/dL
   118 mEq/L
   144 mEq/L
   36.3 %
   15.7 K/uL
        [image002.jpg]
                             [**2158-11-1**]  12:53 PM
                             [**2158-11-1**]  01:08 PM
                             [**2158-11-1**]  05:41 PM
                             [**2158-11-1**]  06:43 PM
                             [**2158-11-1**]  06:50 PM
                             [**2158-11-1**]  10:56 PM
                             [**2158-11-1**]  11:08 PM
                             [**2158-11-2**]  02:49 AM
                             [**2158-11-2**]  02:56 AM
                             [**2158-11-2**]  06:18 AM
   WBC
   15.7
   Hct
   36.3
   Plt
   218
   Cr
   0.8
   0.8
   0.9
   1.0
   TropT
   1.28
   1.13
   TCO2
   15
   13
   15
   16
   19
   20
   Glucose
   131
   151
   85
   74
   Other labs: PT / PTT / INR:14.2/29.7/1.2, CK / CKMB /
   Troponin-T:7121/397/1.13, ALT / AST:250/308, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:91.1 %, Lymph:5.4 %, Mono:3.1 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, LDH:1209 IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   55 year old man who presents with cardiac arrest.
    .
   # Cardiac arrest: VFib arrest with episodes of PEA and asystole. Most
   likely etiology is primary arrythmogenic arrest. DDx include ischemic
   cardiomyopathy, left ventricular systolic dysfunction, myocarditis,
   long QT syndrome in decreasing order of likelihood.  Per cardiology
   records, he had a h/o ventricular arrythmia.  Unclear etiology ? if
   metabolic related (ie. Hyperthyroidism) vs infection
   (pulmonary/intra-abdominal)
   - obtain PCP records
   [**Name Initial (PRE) **] trend CE (expect elevation because of CPR)
   - TTE EF 30-35 Moderate to severe moderate to severe global left
   ventricular hypokinesis (LVEF = 30-35 %). The right ventricular cavity
   is dilated with severe global free wall hypokinesis. - monitor CBC, CMP
   - After AM VF, patient was started on Amiodarone drip
   .
   # Neurologic compromise: Concern for anoxic injury in setting of
   cardiac arrest. Currently on cooling protocol.
   - Continuous EEG for 24 hours with reflex neurology consultation
   - monitor coags and lytes while cooled
   - arctic sun treatment protocol
   - wean sedation as tolerated after warming
   .
   # Hypotension: Initially in setting of VF, suggesting a cardiogenic
   shock proccess. Worsening of hypotension may have been artifactual,
   related to a line. CI during cath and a line tracing from femoral
   sheath support this.
   - Monitor BP
   - wean down pressor (dopa/levo) as tolerated, currently only on
   levophed
   - Consider changing to Neo since this has less B1 ionotropic effect.
   .
   # Metabolic Acidosis: likely from tissue ischemia. Lactate was
   elevated. AG of 18 with delta-delta of [**6-9**] (0.5) is indictive of a
   combined metabolic acidosis (AG and non-AG).  AG is due to lactate [**1-30**]
   hypoperfusion that is complicated by the hyperglycemic episodes
   thoughout the night [**1-30**] HCO3 gtt. Non-AG is of unclear etiology, could
   be [**1-30**] dilutional effect and respiratory alkalosis though can not rule
   out RTA etiology.  He was given experimental dose of medication, likely
   contributed to the hyperglycemia.  And he was receiving HCO3 in D5W.
   Clinically resemble DKA, though, he does not have a documented
   diagnosis of DM.
   - treating with HCO3 bolus to prevent acidosis induced VF.
   - continue IVF support, insulin drip (pending warming), lyte replete.
   - q1h glucose check, with ABG's to see if he is responding to
   treatment.
   - serial ABG check q6h.
   - q6h lytes
   - consider RTA work-up given non-gap acidosis
   .
   # Respiratory arrest: Likely a consequence of VF arrest. Currently
   intubated and sedated. Note fild intubation most likely required
   paralysis. CXR with mild hilar fullness, but the rest of the exam in
   inconsistent with pulmonary edema or decompensated systolic
   dysfunction. Leukocytosis is most likely attributed  to arrest, and is
   less indicative of PNA. Although of low pretest probability PE CT was
   obtained in ED and was negative. Most recent ABG suggestive of
   respiratory alkalosis.
   - monior O2 sats and ABG prn
   - modify TV and RR to correct respiratory alkalosis
   - wean sedation after warming as tolerated
   - emperically coverage with zosyn, d1 [**10-31**]
    .
   FEN: lytes q6, prn IVF
   ACCESS: 18gx2, CVL R groin, femoral sheath
   PROPHYLAXIS: SQH, PPI
   CODE: Presumed full
   COMM:  [**Name (NI) 9089**] [**Numeric Identifier 9090**], [**Name2 (NI) 6164**] [**Numeric Identifier 9091**], [**Doctor First Name **] [**Numeric Identifier 9092**], [**Doctor Last Name **] [**Telephone/Fax (1) 9093**](daugters).
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-10-31**] 07:03 PM
   Sheath - [**2158-10-31**] 07:03 PM
   18 Gauge - [**2158-10-31**] 08:30 PM
   20 Gauge - [**2158-11-1**] 12:50 AM
   22 Gauge - [**2158-11-1**] 04:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2158-11-03 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - @1530 neuro noted that patient had lost corneal reflexes, which he
   had had in the morning
   - @1630 CT scan head showed significantly increased brain edema
   worrisome for impending herniation.  Per Neuro, prognosis is very
   grave; no emergent management (i.e. mannitol, hyperventilation)
   warranted.
   - family informed, NEOB informed, they will come by around 9AM [**11-3**]
   - spoke to patient's cardiologist.  Apparently, he had been referred
   from PCP for [**Name9 (PRE) **] on stress test (unclear why this was performed).  Pt
   was started on BB and cathed, which was clean with normal V-gram.  Plan
   was to f/u in 1 yr for repeat stress but patient was lost to f/u.
   - @0100 pt became hypertensive to SBP 190s for several minutes and then
   relatively quickly MAPs dropped to low 60s - high 50s.  Pressors
   started.  Pt noted to have low tidal volumes on PS, switched to AC.
   - @0200 pupils noted to dilated bilaterally (midline positioning)
   - initial concern for brain death, however it was then noted that
   patient was overbreathing ventilator, after which no further effort to
   pursue brain death protocol overnight
   - family agreed to make patient DNR; additionally, they would like no
   further escalation of care, but do not wish to withdraw care at this
   time
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-11-1**] 04:00 PM
   Piperacillin - [**2158-11-2**] 08:36 AM
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-11-2**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-11-3**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 70 (56 - 76) bpm
   BP: 88/47(60) {79/47(59) - 186/101(134)} mmHg
   RR: 14 (0 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 80 kg
             Total In:
                                                                    815 mL
                                                                    640 mL
   PO:
             TF:
   IVF:
                                                                    815 mL
                                                                    640 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                  1,070 mL
   Urine:
                                                                  1,465 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 317 (317 - 508) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.38/40/96.[**Numeric Identifier 274**]/23/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 194
   Physical Examination
   Gen: intubated
   CV:RRR no MRG s1s2
   Pulm: bronchial breath sounds c/w vent
   Ext: cool, 2+ throughout
   Neuro: non-responsive, no withdrawal to nail bed pressure
   Labs / Radiology
   149 K/uL
   11.4 g/dL
   87 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   29 mg/dL
   114 mEq/L
   145 mEq/L
   33.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2158-11-1**]  11:08 PM
                             [**2158-11-2**]  02:49 AM
                             [**2158-11-2**]  02:56 AM
                             [**2158-11-2**]  06:18 AM
                             [**2158-11-2**]  10:10 AM
                             [**2158-11-2**]  01:37 PM
                             [**2158-11-2**]  05:56 PM
                             [**2158-11-3**]  01:55 AM
                             [**2158-11-3**]  03:12 AM
                             [**2158-11-3**]  03:45 AM
   WBC
   15.7
   16.5
   13.6
   Hct
   36.3
   36.5
   33.1
   Plt
   [**Telephone/Fax (3) 9156**]
   Cr
   1.0
   1.2
   1.0
   TropT
   1.13
   TCO2
   16
   19
   20
   18
   20
   24
   25
   Glucose
   74
   96
   87
   Other labs: PT / PTT / INR:14.0/32.5/1.2, CK / CKMB /
   Troponin-T:7121/397/1.13, ALT / AST:250/308, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:91.1 %, Lymph:5.4 %, Mono:3.1 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:1209 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   55 year old man who presents with cardiac arrest.
    .
   # Cardiac arrest: VFib arrest with episodes of PEA and asystole. Most
   likely etiology is primary arrythmogenic arrest. DDx include ischemic
   cardiomyopathy, left ventricular systolic dysfunction, myocarditis,
   long QT syndrome in decreasing order of likelihood.  Per cardiology
   records, he had a h/o stress test in which a 4 beat run of polymoprhic
   NSVT was observed.  TTE notes EF 30-35% with dilation and global
   hypokinesis.  As patient had normal cardiac function per OSH
   cardiologist
s records as of several years ago, this may suggest an
   acute process causing heart failure in this patient.
   - monitor CBC, CMP
   - d/c
d amiodarone due to prolonged PR.
   .
   # Neurologic compromise: Concern for anoxic injury in setting of
   cardiac arrest.  On Arctic Sun protocol, now warmed to 98.6 since 9pm
   yesterday.  Over-breathing the vent, no pupil light reflex.  Off
   sedation.  Patient has lost corneal reflexes and now has dilated
   midline pupils bilaterally, indicative of very poor prognosis.  CT head
   showed aggressively worsened brain edema worrisome for impending
   herniation.  Per Neurology, no indication for mannitol/hyperventilation
   given catastrophic area of injury.
   - f/u neurology recs
   .
   # Hypotension: Initially in setting of VF, suggesting a cardiogenic
   shock proccess. Worsening of hypotension may have been artifactual,
   related to a line. CI during cath and a line tracing from femoral
   sheath support this.
   - Monitor BP
   - DNR, no escalation of care, now on dopa only.
   - organ bank discussion
   .
   # Metabolic Acidosis: likely initially from tissue ischemia.
   - currently on insulin gtt
   - monitor
   .
   # Respiratory arrest: Likely a consequence of VF arrest. Currently
   intubated on AC.  Patient has been noted to be overbreathing the vent
   at this time.
   - monitor O2 sats and ABG prn
   - continue to monitor overbreathing; if patient suddenly stops, concern
   for brain death
   - wean sedation as tolerated
   - d/ced zosyn given no strong clinical signs of PNA at this time
   - I/O goal negative given about 7 L positive.
   .
   FEN: lytes q6, prn IVF, nutriention cs for tube feeds.
   ACCESS: 18gx2, CVL R groin, femoral sheath
   PROPHYLAXIS: SQH, PPI
   CODE: DNR; no escalation of care; no withdrawal of care at this time
   COMM:  [**Name (NI) 9089**] [**Numeric Identifier 9090**], [**Name2 (NI) 6164**] [**Numeric Identifier 9091**], [**Doctor First Name **] [**Numeric Identifier 9092**], [**Doctor Last Name **] [**Telephone/Fax (1) 9093**](daugters).
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-10-31**] 07:03 PM
   Sheath - [**2158-10-31**] 07:03 PM
   18 Gauge - [**2158-10-31**] 08:30 PM
   20 Gauge - [**2158-11-1**] 12:50 AM
   22 Gauge - [**2158-11-1**] 04:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 9159**].
   I would add the following remarks:
   History
   Catastrophic neurologic deterioration with loss of corneal reflex,
   pupils dilated and CT showing gross edema with high risk of impending
   herniation
   Physical Examination
   unresponsive
   Medical Decision Making
   Pt now DNR.
   Prognosis hopeless.
   Family requests no escalation in care.
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2158-11-3**] 10:02 ------